US06908939B2
(a) methyl 4′-(2-methoxyethoxymethoxy)biphenyl-4-carboxylate
10 g (43.8 mmol) of 4′-hydroxybiphenyl-4-carboxylic acid methyl ester, 100 ml of THF and 150 ml of DMF are introduced in order and under a nitrogen stream into a 500 ml three-necked flask. 1.93 g (48.2 mmol) of NaH at 60% in oil are added in small portions and the mixture is stirred at room temperature for 15 hours. 5.75 ml of 1-chloromethoxy-2-methoxyethane are added dropwise, and the mixture is stirred at room temperature for 30 minutes. The reaction medium is poured over a 1N HCl solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulphate. After filtration and evaporation 12 g of 4′-(2-methoxyethoxymethoxy)biphenyl-4-carboxylic acid methyl ester are obtained in the form of a beige powder after filtration and evaporation (yield=87%).

reactant | 4′-hydroxybiphenyl-4-carboxylic acid methyl ester | 43.8 mmol, 10 g | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C14H12O3
reactant | NaH | 48.2 mmol, 1.93 g | [H-].[Na+]
reactant | 1-chloromethoxy-2-methoxyethane | 5.75 ml | ClCOCCOC | C4H9ClO2
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | methyl 4′-(2-methoxyethoxymethoxy)biphenyl-4-carboxylate | yield=87% | COCCOCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C18H20O5
